US06500863B1
2,6-dichloro-3-nitro-1-(4-thiomorpholinylsufonyl)benzene
Following the general procedure for sulfonamide formation outlined in example 15, 2,6-dichloro-3-nitrobenzenesulfonyl chloride (2.0 g, 6.88mmol), thiomorpholine (710 mg, 6.88 mmol) and triethylamine(l.92mL, 13.76mmnol) were reacted to form the desired product (2.30 g, 94%). 1H NMR (MeOD-d4): δ 7.95 (d, 1H), 7.85(d, 1H), 3.68 (t, 4H), 2.69 (t, 4H).

reactant | 2,6-dichloro-3-nitrobenzenesulfonyl chloride | 6.88mmol, 2.0 g | ClC1=C(C(=CC=C1[N+](=O)[O-])Cl)S(=O)(=O)Cl | C6H2Cl3NO4S
reactant | thiomorpholine | 6.88 mmol, 710 mg | N1CCSCC1 | C4H9NS
solvent | triethylamine | 92mL | C(C)N(CC)CC | C6H15N
product | 2,6-dichloro-3-nitro-1-(4-thiomorpholinylsufonyl)benzene | 2.30 g, 94% | ClC1=C(C(=CC=C1[N+](=O)[O-])Cl)S(=O)(=O)N1CCSCC1 | C10H10Cl2N2O4S2
